US08309580B2
(4) ethyl 5-bromo-2-ethylthiophene-3-carboxylate
To a solution of ethyl 5-bromo-2-(1-hydroxyethyl)thiophene-3-carboxylate (11.0 g) synthesized above in trifluoroacetic acid (100 mL) was added dropwise triethylsilane (18.8 mL). After stirring at room temperature for 1 hr, the reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate:hexane=1:19, volume ratio) to give the title compound (9.67 g, 94%) as a pale-yellow oil.

reactant | ethyl 5-bromo-2-(1-hydroxyethyl)thiophene-3-carboxylate | 11.0 g | BrC1=CC(=C(S1)C(C)O)C(=O)OCC | C9H11BrO3S
reactant | triethylsilane | 18.8 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | trifluoroacetic acid | 100 mL | FC(C(=O)O)(F)F | C2HF3O2
product | ethyl 5-bromo-2-ethylthiophene-3-carboxylate | 9.67 g, 94% | BrC1=CC(=C(S1)CC)C(=O)OCC | C9H11BrO2S
